US06566385B2
Step D: Preparation of 4-[1-amino-4-[2-(3-hydroxy-phenyl)-ethylamino]-1-(3-methyl-3H-imidazol-4-yl)-butyl]-2-fluoro-benzonitrile
2-Methyl-propane-2-sulfinic acid [1-(4-cyano-3-fluoro-phenyl)-4-[2-(3-methoxy-phenyl)-ethylamino]-1-(3-methyl-3-H-imidazol-4-yl)-butyl]-amide (0.075 g, 0.1427 mmol) was dissolved in CH2Cl2 (7 mL) with cooling in an ice-H2O bath, then treated with BBr3 (1 mL of a 1M solution in CH2Cl2, 1 mmol). After 15 min., H2O (3 mL) was added and the reaction mixture was concentrated in vacuo. The residue was dissolved in MeOH and stirred at ambient temperature for 15 min. Concentration to dryness gave the title compound which was used without further purification. MS (M+1) 408.

reactant | 2-Methyl-propane-2-sulfinic acid [1-(4-cyano-3-fluoro-phenyl)-4-[2-(3-methoxy-phenyl)-ethylamino]-1-(3-methyl-3-H-imidazol-4-yl)-butyl]-amide | 0.1427 mmol, 0.075 g | C(#N)C1=C(C=C(C=C1)C(CCCNCCC1=CC(=CC=C1)OC)(C=1N(C=NC1)C)NS(=O)C(C)(C)C)F | C28H36FN5O2S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | H2O | 3 mL | O | H2O
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-amino-4-[2-(3-hydroxy-phenyl)-ethylamino]-1-(3-methyl-3H-imidazol-4-yl)-butyl]-2-fluoro-benzonitrile | NC(CCCNCCC1=CC(=CC=C1)O)(C=1N(C=NC1)C)C1=CC(=C(C#N)C=C1)F | C23H26FN5O
